US04117130
Preparation of 3-methyl-6-(p-tert-butylphenyl)-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 5.0 g. of 3-(p-tert-butylphenyl)-6-chloropyridazine, 3.13 g. of acetylhydrazide and 50 ml. of n-butanol is refluxed for 48 hours. The mixture is concentrated under vacuum and the residue stirred with 100 ml. of water and 100 ml. of ether. The mixture is filtered to give 3.0 g. of tan solid, m.p. 144°-146° C. Recrystallization from acetone/hexane gives the product as pale yellow crystals, m.p. 142°-145° C.

reactant | 3-(p-tert-butylphenyl)-6-chloropyridazine | C(C)(C)(C)C1=CC=C(C=C1)C=1N=NC(=CC1)Cl | C14H15ClN2
solvent | n-butanol | C(CCC)O | C4H10O
product | 3-methyl-6-(p-tert-butylphenyl)-1,2,4-triazolo[4,3-b]pyridazine | CC1=NN=C2N1N=C(C=C2)C2=CC=C(C=C2)C(C)(C)C | C16H18N4
